US07482448B2
To a mixture of (S)-4,4-Difluoro-2-[(perhydro-1,4-oxazepine-4-carbonyl)-amino]-pentanoic acid (97 mg, 0.35 mmol), (S)-2-Amino-1-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-butan-1-ol hydrochloride (83 mg, 0.36 mmol) and diisopropylethyl amine (121 μL, 0.70 mmol) in dry dichloromethane (12 mL) is added 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (66 mg, 0.35 mmol) and 1-hydroxybenzotriazole hydrate (47 mg, 0.35 mmol). The mixture is stirred at room temperature for 16 hr then is diluted with dichloromethane (20 mL) and washed with dilute HCl (30 mL), then saturated NaHCO3 (30 mL). The organic layer is dried (Na2SO4) and concentrated in vacuum. The residue is purified over 12 g silica gel, eluting with ethyl acetate: heptane (gradient 50-100%) to afford Perhydro-1,4-oxazepine-4-carboxylic acid ((S)-1-{(S)-1-[(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-hydroxy-methyl]-propylcarbamoyl}-3,3-difluoro-butyl)-amide (120 mg, 75%) as a glassy solid. LC/MS 100% 460 (M+H).

reactant | (S)-4,4-Difluoro-2-[(perhydro-1,4-oxazepine-4-carbonyl)-amino]-pentanoic acid | 0.35 mmol, 97 mg | FC(C[C@@H](C(=O)O)NC(=O)N1CCOCCC1)(C)F | C11H18F2N2O4
reactant | (S)-2-Amino-1-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-butan-1-ol hydrochloride | 0.36 mmol, 83 mg | Cl.NC([C@H](O)C1=NC(=NO1)C1CC1)CC
reactant | diisopropylethyl amine | 0.70 mmol, 121 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.35 mmol, 66 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.35 mmol, 47 mg | O.ON1N=NC2=C1C=CC=C2
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Perhydro-1,4-oxazepine-4-carboxylic acid ((S)-1-{(S)-1-[(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-hydroxy-methyl]-propylcarbamoyl}-3,3-difluoro-butyl)-amide | 120 mg, 75% | C1(CC1)C1=NOC(=N1)C([C@H](CC)NC(=O)[C@H](CC(C)(F)F)NC(=O)N1CCOCCC1)O | C20H31F2N5O5
